US06143779
Synthesis of 6-benzoyloxy-2-piperonylidene-3(2H)-benzofuranone
After 6-hydroxy-2-piperonylidene-3(2H)-benzofuranone 0.5 g was dissolved in pyridine 5 ml, benzoyl chloride 0.282 ml was added, and the mixture was refluxed for two hours. The reaction mixture was cooled to room temperature, ethyl acetate 50 ml was added, and the mixture was washed with 2N-hydrochloric acid 50 ml twice. The ethyl acetate solution was dehydrated with anhydrous magnesium sulfate and concentrated under reduced pressure. The crude extract was dissolved in ethyl acetate 10 ml and hexane 20 ml, and the precipitated crystals were dried over phosphorous pentoxide at a temperature of 60° C. for six hours under reduced pressure to obtain the desired compound 182.3 mg.

reactant | 6-hydroxy-2-piperonylidene-3(2H)-benzofuranone | 0.5 g | OC1=CC2=C(C(C(O2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C16H10O5
reactant | benzoyl chloride | 0.282 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-benzoyloxy-2-piperonylidene-3(2H)-benzofuranone | 182.3 mg | C(C1=CC=CC=C1)(=O)OC1=CC2=C(C(C(O2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C23H14O6
